US04962200
In 20 ml of ethanol was dissolved 5.0 g (45.8 millimoles) of 2-aminophenol, and 4.8 g (50.0 millimoles) of furfural was added to the solution and the mixture was stirred for 1 hour at room temperature. Then, 2.3 g (60.8 millimoles) of sodium boron hydride was added to the mixture and the mixture was stirred at room temperature for 2 hours, and 2N hydrochloric acid was added to the mixture and ethanol was removed by distillation under reduced pressure. Then, the residue was neutralized with a 5% aqueous solution of sodium hydroxide and extracted with ethyl acetate. The organic layer was dried with sodium sulfate and concentrated under reduced pressure, and the residue was purified by the silica gel column chromatography (developing solvent: ethyl acetate/hexane=3/7) to obtain 5.0 g (the yield was 58%) of 2-(2-furyl)methylaminophenol in the form of a brown oil. The oil was dissolved in 200 ml of an aqueous solution of 2.5 g of sodium hydroxide, and 2.5 ml (30 millimoles) of 1,2-chlorobromoethane was added to the solution and the mixture was heated and refluxed for 5 hours. The reaction mixture was extracted, and the extract was dried with anhydrous sodium sulfate and concentrated under reduced pressure to obtain a brown oil. The oil was purified by the silica gel column chromatography (developing solvent: chloroform/hexane=1/3→1/1) to obtain 0.5 g (the yield was 7.5%) of intended compound No. 11 in the form of a light-brown oil.

reactant | 2-aminophenol | 45.8 millimoles, 5.0 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | furfural | 50.0 millimoles, 4.8 g | C(C1=CC=CO1)=O | C5H4O2
reactant | sodium boron hydride | 60.8 millimoles, 2.3 g | B.[Na]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(2-furyl)methylaminophenol | yield was 58% | O1C(=CC=C1)CNC1=C(C=CC=C1)O | C11H11NO2
